US07189716B2
2-Methyl-6-morpholin-4-yl-3-nitro-pyridin-4-ylamine (Scheme IX):
To a pressure vessel, a mixture of 6-chloro-2-methyl-3-nitro-pyridin-4-ylamine (0.75 g, 4.00 mmol) and morpholine (1.40 mL, 16.0 mmol) in absolute ethanol (16 mL) was stirred at 120° C. for 3 days. Absolute ethanol was evaporated in vacuo and the crude product was dissolved in a mixture of THF:EtOAc and this then subjected on top of a silica gel pad. Elution with EtOAc gave, after evaporation, the title compound as a yellow solid (0.89 g, 93%): IR (KBr, cm−1) 3460, 3330, 1627, 1597, 1553, 1233, 1113; 1H NMR (400 MHz, DMSO) δ 7.13 (s, 2H), 5.89 (s, 1H), 3.66–3.63 (m, 4H), 3.46–3.44 (m, 4H), 2.50 (s, 3H); LCMS (+ESI, M+H+) m/z 239; HPLC: 99% (220 nm).

reactant | 6-chloro-2-methyl-3-nitro-pyridin-4-ylamine | 4.00 mmol, 0.75 g | ClC1=CC(=C(C(=N1)C)[N+](=O)[O-])N | C6H6ClN3O2
reactant | morpholine | 16.0 mmol, 1.40 mL | N1CCOCC1 | C4H9NO
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 2-Methyl-6-morpholin-4-yl-3-nitro-pyridin-4-ylamine | CC1=NC(=CC(=C1[N+](=O)[O-])N)N1CCOCC1 | C10H14N4O3
